US04582862
(A2) 3,3-Dimethyl-2-methoxy-2-[4-(methylthio)-phenyl]oxirane
95.1 g (1.76 mols) of sodium methylate are dissolved in 600 ml of methanol, and 437.1 g (1.60 mols) of 2-bromo-2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one, dissolved in 300 ml of methanol, are added dropwise to this solution at reflux temperature. The methanol is then removed by distillation. The residue is poured into ice water, and the mixture is extracted with diethyl ether. The ether solution is washed with water, dried over Na2SO4 and concentrated. The crystals obtained are purified by vacuum distillation.

reactant | sodium methylate | 1.76 mols, 95.1 g | C[O-].[Na+]
reactant | 2-bromo-2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one | 1.60 mols, 437.1 g | BrC(C(=O)C1=CC=C(C=C1)SC)(C)C | C11H13BrOS
solvent | methanol | 600 ml | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 3,3-Dimethyl-2-methoxy-2-[4-(methylthio)-phenyl]oxirane | CC1(C(O1)(C1=CC=C(C=C1)SC)OC)C | C12H16O2S
